US08222416B2
A mixture of 1-benzenesulfonyl-2-[2-cyclopentyl-1-(3,5-dimethyl-phenyl)-vinyl]-1H-pyrrolo[2,3-b]pyridine (130 mg, 0.28 mmol) in ethanol (3 mL), tetrahydrofuran (3 mL), and aqueous sodium hydroxide solution (10%, 1 mL) was heated at reflux for 24 h. The mixture was diluted with ethyl acetate (100 mL), washed with water, dried over anhydrous sodium sulfate and then concentrated in vacuo to afford 2-[2-cyclopentyl-1-(3,5-dimethyl-phenyl)-vinyl]-1H-pyrrolo[2,3-b]pyridine (90 mg, 99%) as a white solid: LC/MS m/e calcd for C22H24N2 [M+H]+ 317.45, observed 317.2.

reactant | 1-benzenesulfonyl-2-[2-cyclopentyl-1-(3,5-dimethyl-phenyl)-vinyl]-1H-pyrrolo[2,3-b]pyridine | 0.28 mmol, 130 mg | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=CC2)C(=CC2CCCC2)C2=CC(=CC(=C2)C)C | C28H28N2O2S
reactant | sodium hydroxide | 1 mL | [OH-].[Na+]
solvent | ethanol | 3 mL | C(C)O | C2H6O
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 2-[2-cyclopentyl-1-(3,5-dimethyl-phenyl)-vinyl]-1H-pyrrolo[2,3-b]pyridine | 90 mg, 99% | C1(CCCC1)C=C(C1=CC(=CC(=C1)C)C)C1=CC=2C(=NC=CC2)N1 | C22H24N2
